US04113715
By substituting Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-lysine trifluoroacetate for the Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-arginine in the procedure of Example 31, Nα -(5-amino-2-mercaptomethylpentanoyl)-L-lysine is obtained.

reactant | Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-lysine trifluoroacetate | FC(C(=O)O)(F)F.C(C)(=O)SCC(C(=O)N[C@@H](CCCCN)C(=O)O)CCCN
reactant | Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-arginine | C(C)(=O)SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCCN | C14H27N5O4S
product | Nα -(5-amino-2-mercaptomethylpentanoyl)-L-lysine | NCCCC(C(=O)N[C@@H](CCCCN)C(=O)O)CS | C12H25N3O3S
